Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
L foot infection/abscess
 
Major Surgical or Invasive Procedure:
___: L foot incision and drainage

 
History of Present Illness:
Ms. ___ is a ___ year old patient who presents for evaluation 
of her L foot redness and swelling. She states that this began 
this morning. The patient denies any trauma to her foot. She 
states she believed that she stepped on something a few months 
ago, but this healed without incident. She presented to ___ 
___ who took and x-ray and gave her a dose of imipenem and 
vancomycin. ___ ultimately transferred her here for futher 
evaluation. She denies N/V/F/C/SOB/CP. Podiatric surgery was 
consulted to assess for potential operative intervention.
 
Past Medical History:
DM Type 2  
h/o necrotizing fasciitis s/p panniculectomy ___ ___  
Osteoarthritis  
Fibromyalgia  
PTSD  
anxiety/depression  
PCOS  
 
Social History:
___
Family History:
Denies family history of cancers, premature CAD. Father with 
several TIAs.  
 
Physical Exam:
PHYSICAL EXAM:
VS: 96.0 94 110/70 18 97% RA 
GEN: NAD
CV: RRR
Pulm: No respiratory distress
GI: soft, NT, ND
LLE: ___ pulses dopplarable. Cap refill <3 seconds to all
digits. Edema noted to medial midfoot extending into rearfoot.
Slight increase ___ temperature gradient to L medial foot.
Erythema extending from medial midfoot arch to medial ankle. No
open lesions appreciated. Soft, slight fluctuant area to medial
midfoot arch. Extreme tenderness to palpation to medial arch.
Gross sensation is intact.
NEURO: A&Ox3

PHYSICAL EXAM:
VSS
GEN: NAD
CV: RRR
Pulm: No respiratory distress
GI: soft, NT, ND
LLE: C/D/I dressingto L foot Cap refill <3 seconds to all
digits. Pt able to flex and extend all toe and ankle. Gross 
sensation is intact.
NEURO: A&Ox3
 
Pertinent Results:
___ 11:29PM BLOOD WBC-14.4*# RBC-4.92 Hgb-14.8 Hct-43.5 
MCV-88 MCH-30.1 MCHC-34.0 RDW-14.2 RDWSD-45.5 Plt ___
___ 06:45AM BLOOD WBC-8.9 RBC-4.79 Hgb-14.3 Hct-43.5 MCV-91 
MCH-29.9 MCHC-32.9 RDW-14.3 RDWSD-47.6* Plt ___
___ 06:30AM BLOOD WBC-8.0 RBC-4.86 Hgb-14.3 Hct-45.1* 
MCV-93 MCH-29.4 MCHC-31.7* RDW-14.2 RDWSD-48.1* Plt ___
___ 11:29PM BLOOD Neuts-76.3* Lymphs-15.3* Monos-6.3 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-10.93* AbsLymp-2.20 
AbsMono-0.91* AbsEos-0.19 AbsBaso-0.06
___ 11:29PM BLOOD ___ PTT-29.6 ___
___ 06:45AM BLOOD ___ PTT-29.9 ___
___ 11:29PM BLOOD Glucose-143* UreaN-12 Creat-0.7 Na-137 
K-4.0 Cl-100 HCO3-26 AnGap-15
___ 06:45AM BLOOD Glucose-143* UreaN-14 Creat-0.7 Na-139 
K-4.3 Cl-101 HCO3-29 AnGap-13
___ 06:30AM BLOOD Glucose-125* UreaN-17 Creat-0.8 Na-138 
K-4.3 Cl-99 HCO3-30 AnGap-13
___ 06:45AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.5*
___ 06:30AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.2
___ 11:34PM BLOOD Lactate-1.5

___ 8:08 am SWAB     Site: FOOT      LEFT . 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS, CHAINS, AND 
CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    MODERATE 
GROWTH. 
         VANCOMYCIN MIC: <= 0.12 MCG/ML. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS ANGINOSUS (___) 
GROUP
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.12 S
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------       S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

US L foot ___:
Heterogeneous area at the plantar aspect of the left midfoot 
measuring 2.3 x 2 cm, could represent phlegmon or developing 
abscess.  No evidence of soft tissue gas. 

PATHOLOGY: P

BLOOD CULTURES x2: Negative to date
 
Brief Hospital Course:
The patient was admitted to the podiatric surgery service from 
on ___ for a left foot infection. On admission, she was 
started on broad spectrum antibiotics. She was taking to the OR 
for left foot incision and drainage on ___. Pt was 
evaluated by anesthesia and taken to the operating room.  There 
were no adverse events ___ the operating room; please see the 
operative note for details. Afterwards, pt was taken to the PACU 
___ stable condition, then transferred to the ward for 
observation. 

Post-operatively, the patient remained afebrile with stable 
vital signs; pain was well controlled oral pain medication on a 
PRN basis.  The patient remained stable from both a 
cardiovascular and pulmonary standpoint. She was placed on 
daptomycin and cefepime while hospitalized and discharged with 
oral clindamycin based on her OR cultures. Her intake and output 
were closely monitored and noted to be adequate. The patient 
received subcutaneous heparin throughout admission; early and 
frequent ambulation were strongly encouraged while minimizing 
weight to her left foot. She is unable to ambulate long 
distances due to an injury to her hip. She transfers to and from 
a wheelchair and was noted to be able to transfer with touchdown 
weightbearing to her left foot without assistance.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, transferring without assistance, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged home following teaching on how to change her dressing 
which she was able to preform on her own without assistance. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 80 mg PO QHS 
2. Lorazepam 2 mg PO QPM 
3. QUEtiapine Fumarate 50-150 mg PO DAILY:PRN anxiety 
4. Gabapentin 900 mg PO TID 
5. MetFORMIN (Glucophage) 500 mg PO TID 
6. TraMADOL (Ultram) 50-200 mg PO DAILY:PRN pain 

 
Discharge Medications:
1. Citalopram 80 mg PO QHS 
2. Gabapentin 900 mg PO TID 
3. Lorazepam 2 mg PO QPM 
4. QUEtiapine Fumarate 50-150 mg PO DAILY:PRN anxiety 
5. MetFORMIN (Glucophage) 500 mg PO TID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 4 hours Disp #*40 
Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
8. Clindamycin 300 mg PO Q8H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth three times a 
day Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L foot infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service due to a left foot infection. 
You were given IV antibiotics while here and taken to the 
operating room for an incision and drainage. You are being 
discharged home with the following instructions: 

ACTIVITY:
There are restrictions on activity. Please remain touchdown 
weight bearing to your heel of L foot with transfers until your 
follow up appointment. You should keep this site elevated when 
ever possible (above the level of the heart!) 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness ___ or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. Your dressing should be changed every other day with 
betadine soaked gauze and a kerlex wrap.

Avoid taking a tub bath, swimming, or soaking ___ a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods ___ your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___